US04011231
2-Hydroxymethyl-3-hydroxy-6-(1-hydroxy-2-t-butylaminoethyl)-pyridine Dihydrochloride (Via Maleate Salt of Acetal-Amine)
To a solution of methanol (11.3 l.)--hydrogen chloride gas (620 g., 17 moles) at 20° C. is added, with stirring, 2-phenyl-6-(1-hydroxy-2-t-butylaminoethyl)-4-H-pyrido-[3,2-d]-1,3-dioxin maleate (1880 g., 4.24 moles) over a five minute period. The resulting solution is then stirred for 2 hours at 20°-25° C. and is then concentrated under reduced pressure to a volume of about 3 liters. Acetone (16 liters) is added to the concentrate and the resulting precipitate granulated at 25° C. for a half-hour. The white crystalline solid is separated by filtration and washed with acetone (4 liters). Yield = quantitative. M.P. 183°-187° C. (dec.).

reactant | hydrogen chloride | 17 moles, 620 g | Cl | ClH
reactant | 2-phenyl-6-(1-hydroxy-2-t-butylaminoethyl)-4-H-pyrido-[3,2-d]-1,3-dioxin maleate | 4.24 moles, 1880 g | C(\C=C/C(=O)O)(=O)O.C1(=CC=CC=C1)C1OCC2=C(O1)C=CC(=N2)C(CNC(C)(C)C)O
solvent | methanol | 11.3 l | CO | CH4O
product | 2-Hydroxymethyl-3-hydroxy-6-(1-hydroxy-2-t-butylaminoethyl)-pyridine Dihydrochloride | Cl.Cl.OCC1=NC(=CC=C1O)C(CNC(C)(C)C)O | InChI=1S/C12H20N2O3.2ClH/c1-12(2,3)13-6-11(17)8-4-5-10(16)9(7-15)14-8;;/h4-5,11,13,15-17H,6-7H2,1-3H3;2*1H
